Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
codeine / Penicillins / morphine / lisinopril
 
Attending: ___
 
Chief Complaint:
L face, arm, leg numbness

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:
___ (BID #: ___) is a ___ year-old right-handed
male with hypertension, hyperlipidemia, and an abdominal aortic
aneurysm who presents with acute onset of left face, arm, and 
leg
numbness.

___ notes that he was in his usual state of health until
approximately 3:00 this morning when he was awoken out of sleep
with severe pain he felt was coming from his left inner ear.  
The
pain was accompanied by a sensation of fluid "gushing" out of 
his
ear although there was no blood or otorrhea.  The pain 
eventually
evolved and travel anteriorly, with a left retro-orbital focus. 
At that time, he had no other symptoms besides his pain,
including no numbness.

He woke up later feeling better and was able to carry on his
morning routine without difficulty.  He recalls getting in the
car at 7:45 AM and feeling well.  However, during his commute he
suddenly noticed acute onset of numbness in his left face, arm,
and leg.  He has never had a similar experience before, but he
notes that it was progressively worsening from the time of 
onset.
He did not have any associated weakness or difficulties with his
speech or any other deficits of which he was aware.  Because of
the gradually worsening progression of his symptoms, he decided
to call his primary care doctor who prompted him to come to the
emergency room for immediate evaluation.

Of note, he typically takes a baby aspirin on a daily basis;
however, he ran out of his supply about 1 month ago and has not
taken any since.  Otherwise, he has been compliant with his
medications.  He notes that he has been under significant stress
lately, as 1 of his children is currently battling an opioid
addiction.  He does not have a history of migraine headaches but
notes that his sister has severe cluster headaches and he
believes that there other family members who has "normal
migraines."

On neuro ROS, he denies headache, loss of vision, blurred 
vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness. No bowel or 
bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, he the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- HTN
- HLD
- Aortic aneurysm: 4.8 cm -- watching medically, no intervention
- Insomnia 
 
Social History:
___
Family History:
- Autoimmune: brother with MS, mother died of bronchiolitis 
obliand terans also had retinitis pigmentosa, 2 sisters with SLE
- Cancer: brother died of ___ cancerphageal
- Sister with cluster he; other family members with typical
___ 
- Dad died of ___ and CAD

 
Physical Exam:
Admission:

Vitals: 
Temp: 97.8 
HR: 71 
BP: 123/113 
Resp: 18 
O2 Sat: 100 

Gen: awake, alert. Interactive. NAD. 
HEENT: NC/AT, no conjunctival injection or discharge, no
rhinorrhea, MMM
CV: no cyanosis
Resp: breathing comfortably on room air
GI: abdomen is not distended
Skin: no rashes or lesions

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects, with 
the
exception of "hammock."  Able to read without difficulty. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation decreased to light touch, pin, and
temperature in the left hemi-face, approximately 70% compared to
normal on the right.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout.  Full, ___ strength in the
deltoids, biceps, triceps, wrist extensors, finger flexors,
finger extensors, interossei, iliopsoas, quadriceps, hamstrings,
tibialis anterior, gastrocnemius, ___ and ___.  No pronator 
drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

-Sensory: Intact to all modalities on the right.  Decreased to
light touch, temperature, and pin in the left hemibody.  Left
foot is intact to joint sense/proprioception at the great toe as
well as vibration. No extinction to DSS.

-DTRs: Trace in the biceps, triceps, brachioradialis, patellar;
absent at the ankles. Plantar response was withdrawal
bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to toe walk, heel walk, and walk in tandem without
difficulty. Romberg absent.

Discharge

Gen: awake, alert. Interactive. NAD. 
HEENT: NC/AT, no conjunctival injection or discharge, no
rhinorrhea, MMM
CV: no cyanosis
Resp: breathing comfortably on room air
GI: abdomen is not distended
Skin: no rashes or lesions

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects, with 
the
exception of "hammock."  Able to read without difficulty. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Intact Facial sensation 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout.  Full, ___ strength in the
deltoids, biceps, triceps, wrist extensors, finger flexors,
finger extensors, interossei, iliopsoas, quadriceps, hamstrings,
tibialis anterior, gastrocnemius, ___ and ___.  No pronator 
drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

-Sensory: Intact to all modalities on the right and left. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to toe walk, heel walk, and walk in tandem without
difficulty. Romberg absent.

 
Pertinent Results:
___ 10:26AM BLOOD WBC-7.9# RBC-4.74 Hgb-15.9 Hct-45.2 
MCV-95# MCH-33.5* MCHC-35.2 RDW-12.1 RDWSD-42.4 Plt ___
___ 10:26AM BLOOD Neuts-60.1 ___ Monos-10.5 Eos-6.0 
Baso-1.2* Im ___ AbsNeut-4.62 AbsLymp-1.68 AbsMono-0.81* 
AbsEos-0.46 AbsBaso-0.09*
___ 10:26AM BLOOD ___ PTT-37.7* ___
___ 10:26AM BLOOD Glucose-101* UreaN-17 Creat-1.1 Na-138 
K-5.0 Cl-95* HCO3-26 AnGap-17
___ 10:26AM BLOOD ALT-27 AST-18 AlkPhos-78 TotBili-1.0
___ 10:26AM BLOOD Albumin-4.5 Calcium-9.8 Phos-3.3 Mg-2.0
___ 10:26AM BLOOD cTropnT-<0.01

___ 05:30AM BLOOD WBC-5.7 RBC-4.28* Hgb-14.0 Hct-40.9 
MCV-96 MCH-32.7* MCHC-34.2 RDW-12.1 RDWSD-42.5 Plt ___
___ 05:30AM BLOOD ___ PTT-36.1 ___
___ 05:30AM BLOOD Glucose-86 UreaN-20 Creat-0.9 Na-142 
K-4.3 Cl-99 HCO3-29 AnGap-14
___ 05:30AM BLOOD cTropnT-<0.01
___ 05:30AM BLOOD Cholest-164
___ 05:30AM BLOOD Triglyc-144 HDL-52 CHOL/HD-3.2 LDLcalc-83
___ 05:30AM BLOOD TSH-1.6
___ 05:30AM BLOOD CRP-0.9

CT HEAD
1.  No evidence for acute intracranial hemorrhage or vascular 
territorial
infarction.
2.  Patent intracranial and cervical vasculature without 
high-grade stenosis,
occlusion, or dissection.
3.  Multifocal sinus disease, as detailed above.
4.  Ascending thoracic aortic aneurysm, measuring up to 4.5 cm 
and largely
unchanged dating back to ___.

MR HEAD
1. No acute intracranial findings.
2. Small focus of encephalomalacia in the left middle frontal 
gyrus, likely
sequela of chronic infarct.
3. Moderate paranasal sinus disease.
 

TTE
Conclusions
The left atrium is normal in size. No atrial septal defect is 
seen on color flow Doppler, but there is early appearance of 
agitated saline/microbubbles in the left atrium/ventricle at 
rest most consistent with an atrial septal defect or stretched 
patent foramen ovale (though a very proximal intrapulmonary 
shunt cannot be fully excluded). The estimated right atrial 
pressure is ___ mmHg. Normal left ventricular wall thickness, 
cavity size, and global systolic function (3D LVEF = 55 %). 
Doppler parameters are most consistent with Grade I (mild) left 
ventricular diastolic dysfunction. Right ventricular chamber 
size and free wall motion are normal. The aortic root is mildly 
dilated at the sinus level. The ascending aorta is mildly 
dilated. The number of aortic valve leaflets cannot be 
determined. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The pulmonary artery systolic pressure could not 
be determined. There is no pericardial effusion. 

IMPRESSION: Agitated saline demonstrated in the left atrium 
after injection at rest consistent with a small atrial septal 
defect or stretched patent foramen ovale. Normal left 
ventricular wall thickness, cavity size, and regional/global 
systolic function. Normal right ventricular size and systolic 
function. 

The patient has a mildly dilated ascending aorta. Based on ___ 
ACCF/AHA Thoracic Aortic Guidelines, if not previously known or 
a change, a follow-up echocardiogram is suggested in ___ year; if 
previously known and stable, a follow-up echocardiogram is 
suggested in ___ years.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with hypertension and 
hyperlipidemia presenting with acute onset left hemisensory 
deficit (pins/needles, numbness) that lasted approximately 12 
hours. On admission, he had face/arm/leg numbness; he did not 
have any neurologic deficits on discharge. An MRI revealed an 
old left frontal gyrus infarct but no new infarct. Overall, his 
presentation was thought to be most consistent with MRI negative 
stroke. A migraine with aura was also on the differential. He 
was discharged home on aspirin 81mg daily. A1c 5.5, LDL 83. He 
did not have any ___ needs.

Trasitional issues:
[ ] PCP referral to neurology as above
[ ] Echo read pending
[ ] ___ of ___ needs to be ordered
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. LORazepam 0.5 mg PO Q8H:PRN anxiety, insomnia 
5. losartan-hydrochlorothiazide 100-25 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Atenolol 50 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  LORazepam 0.5 mg PO Q8H:PRN anxiety, insomnia  
6.  losartan-hydrochlorothiazide 100-25 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MRI negative stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

You were in the hospital because you had an acute onset of 
left-sided sensory changes (pins/needles, numbness). 

In the hospital, we obtained an MRI brain which showed an old 
left-sided stroke but no new strokes. A CTA head and neck to 
evaluate your blood vessels did not show an occlusion. We also 
obtained an echocardiogram of your heart (read pending) to 
evaluate for a cardiac source of a stroke. We took a look at 
your risk factors for stroke.

Overall, we think you had an "MRI negative stroke" meaning that 
you had a stroke that was too small to see on MRI. 

When you leave the hospital, you should continue taking your 
medications as listed below and follow up with your primary care 
doctor. You should also take aspirin 81mg daily to reduce your 
risk of future strokes. You will need to follow-up on your Echo 
result and obtain ___ of Hearts monitor as detailed below 
under  follow-up. You did not have any home physical therapy 
needs. 

Best wishes,

Your ___ team
 
Followup Instructions:
___